Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin / atorvastatin / pravastatin / Influenza Virus 
Vaccines
 
Attending: ___.
 
Chief Complaint:
GI bleed  
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
___ year old gentleman with PMH of diabetes, seizures who is 
transferred from ___ (admitted on ___ 
after he was intitially admitted with fall at home (no trauma, 
negative CT, MRI) and found to be acutely hypotensive and 
developed melena (Baseline Hgb ~12.9 and now 6.6). He is a 
Jehovah's witness and is refusing blood and is being 
resuscitated with crystalloid. GI physicians at ___ 
refused to scope in setting of refusing blood and he was 
transferred to ___ for a second opinion from GI and further 
hemodynamic monitoring. 

At ___, most of the history was obtained from his wife as 
the patient was altered. Per wife, after the death of the 
patient's brother and son, the patient became very depressed and 
was not taking care of himself. He had some issues sleeping and 
his PCP discontinued his ___ (which he had been taking 4 mg 
for several years) and started on remeron. There was significant 
concern for benzo withdrawal but he did not improve with Ativan 
administration. Neurology saw the patient who did not believe he 
had a seizure. The patient also had a low grade temp of 100.3 
but no source of infection. LP was deferred because of agitation 
and he was empirically started on vanco, ceftriaxone, acyclovir. 


On arrival to the MICU,  his Hgb was reported to be 6.8. His 
vitals were T98.3, HR 118, BP 133/78, RR 27, 98% RA
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
-HTN
-Hx of frequent falls
-Hx of seizures on Topamax
-Type II DM
-CAD s/p PCI, cath ___ (occlusion RCA, luminal irregularlity in 
LAD)
-Mild dementia
-Hx of chronic hyponatremia
-Chronic low back pain
-Previous thoracic and lumbar fracture s/p kyphoplasty s/p 
lumbar fusion/vertebroplasty. 
-hx of chronic hyponatremia
-hx of paroxysmal SVT s/p ablation

 
Social History:
___
Family History:
Unable to obtain as patient is confused. Will ask wife when she 
arrives.
 
Physical Exam:
ADMISSION EXAM:
Vitals:  99.2 HR ___ RR 21 97% on RA
GEN: Confused. Speaking but without meaning. Clammy and pale. 
Warm.
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, dry 
mucous membranes
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: Regular, rhythm, tachycardic, S1/S2, no murmurs, 
gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose, warm. Right midline. 
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

 
Pertinent Results:
===================
ADMISSION LABS
===================
___ 06:40AM BLOOD WBC-22.5* RBC-2.34* Hgb-6.6* Hct-22.0* 
MCV-94 MCH-28.2 MCHC-30.0* RDW-15.3 RDWSD-52.2* Plt ___
___ 06:40AM BLOOD ___ PTT-25.2 ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-137* UreaN-89* Creat-2.8* Na-149* 
K-4.5 Cl-120* HCO3-10* AnGap-24*
___ 06:40AM BLOOD Calcium-7.7* Phos-1.8* Mg-2.2
___ 10:07AM BLOOD Vanco-4.7*
___ 10:17AM BLOOD ___ pO2-35* pCO2-28* pH-7.30* 
calTCO2-14* Base XS--11
___ 06:44AM BLOOD Lactate-3.8*
___ 10:17AM BLOOD Lactate-3.2*

Discharge Labs
___ 07:00AM BLOOD WBC-12.6* RBC-2.09* Hgb-6.2* Hct-20.2* 
MCV-97 MCH-29.7 MCHC-30.7* RDW-18.9* RDWSD-64.3* Plt ___
___ 07:00AM BLOOD Glucose-118* UreaN-29* Creat-2.0* Na-139 
K-4.0 Cl-109* HCO3-19* AnGap-15
___ 07:00AM BLOOD Calcium-7.9* Phos-3.5 Mg-2.2

=====================
IMAGING & PROCEDURES
=====================
CXR ___: NG tube in appropriate position. Midline 
terminates in the proximal right basilic vein. Tubular opacities 
projecting at the level of the carina to the right of the spine 
may be from prior laminectomy, which can be further evaluated on 

additional lateral view chest radiograph. 

PICC CXR ___: The left PICC is seen coiled in the left 
subclavian vein and should be pulled back.  Cardiac size is 
normal.  The lungs are clear.  There is no pneumothorax or 
pleural effusion.   Right midline and NG tube again noted in 
unchanged positions.  Coiled tubular opacity adjacent to the 
right thoracic spine at the level of the carina may be from 
prior laminectomy procedure. 

EGD ___:  Ulcer in the antrum (injection, endoclip)
Blood in the stomach
Otherwise normal EGD to third part of the duodenum 

=================
MICROBIOLOGY
=================
Blood culture x2 ___: NGTD
Urine culture ___: No growth.

 
Brief Hospital Course:
___ year old gentleman with PMH of seizures who initially 
presented with altered mental status s/p fall at ___ and 
course c/b UGIB and refusal of blood products. Transferred to 
___ for further hemodynamic stabilization and second opinion 
on GI scoping. 

ACUTE ISSUES:
# Upper GI bleed, Gastric ulcer: 
#Acute blood loss anemia:
Patient presented with Hb 6.6 after large melenic stools. He is 
a Jehovah's witness and reaffirmed his desire not to receive any 
blood products, being fully aware of the risk of death. An EGD 
was performed on ___ which showed a single crater ulcer near 
the pylorus; epi injections and 6 endoclips were attempted but 
not successful. Given concerns for ongoing bleeding and the 
patient's refusal of blood products, his family initially 
decided to focus care on comfort. After transition to the 
medical floor, it became apparent that the bleeding had stopped. 
The patient was continued on high dose PPI and his diet was 
advanced. His H/H while low, was stable. He was given a total of 
six doses of IV iron. He has been scheduled for outpatient GI 
followup in ___ as well as endoscopy in ___.  H Pylori 
serum test pending at the time of discharge; discharging 
hospitalist will notify rehab if his test returns positive and 
he requires treatment.  hemoglobin of 6.2 and hematocrit of 20.2 
on day of discharge.  He should remain on omeprazole 40 mg po 
bid until he has repeat endoscopy in ___  

# Encephalopathy: Reportedly patient has confusion at baseline 
but was more confused on admission. Likely delirium with acute 
toxic encephalopathy due to infection, uremia, or anemia. He was 
empirically started on vancomycin, ceftriaxone, and acyclovir 
for meningitis coverage. Acyclovir was later stopped due to poor 
renal function. There was initial concern for benzo withdrawal 
but patient did not score on CIWA scale. His mental status 
improved once transferred to the medical floor and was close to 
his baseline.  All antibiotics were stopped.  

#Acute renal failure: 
Baseline creatinine 1.4-1.6.  On presentation Cr 2.8. Likely 
pre-renal in the setting of hypoperfusion from GI bleed. Was 
treated with fluid with improvement and his creatinine was 2.0 
on discharge.  

# Hypernatremia: Patient sodium increased during course of 
admission, peaking at 155 on ___. Patient was treated with D5W 
at 75 cc / hour with gradual resolution of his hypernatremia. 

#Hx of CAD: 
Patient with elevated troponin at ___- seen by cardiology there 
who felt it was due to demand in setting of acute illness-  - we 
continued to hold ASA in setting of significant bleeding, 
especially given the inability to give the patient transfusions. 
. The patient's Betablocker was resumed once he was 
hemodynamically stable.  Spoke with PCP regarding cardiac 
history - he had an IWMI in ___, in ___ had attempted and 
failed angioplasty of RCA lesion.  Patient has intolerance to 
all statins (has elevation of CK).  PCP noted that patient was 
on aspirin 325 mg, but unclear why.  Rehab will need to resume 
aspirin 81 mg - 
Can consider repeated hct in 2 weeks, and if his hematocrit 
continues to rise and he has no further evidence of GI bleeding, 
can restart then after discussing risk/benefit with the family.  


#Bacteremia/contaminant
Patient with one positive blood culture at OSH with dimorphic 
bacteria and CONS- these are likely contaminant given negative 
cultures at ___.

CHRONIC ISSUES:
#Seizures: Continued home topirimate 
#HTN: Held home amlodipine due to GIB.  Lisinopril on hold given 
acute kidney injury.  If BP starts to rise, can restart low dose 
amlodipine and titrate upwards as indicated.

#Type II Diabetes: Last Hgb A1C ___ 6.2%

CORE MEASURES:  
# Communication:  ___ ___)
# Code:  DNR/DNI (Confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Niacin SR 1000 mg PO DAILY 
4. Klor-Con 10 (potassium chloride) 10 mEq oral DAILY 
5. Topiramate (Topamax) 100 mg PO DAILY 
6. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Omeprazole 40 mg PO BID  
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Topiramate (Topamax) 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Gastric ulcer with bleeding
Anemia (low level of red blood cells due to blood loss)
Hypertension
CAD
Acute kidney injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with a bleeding ulcer.  You 
had an endoscopy and had the ulcer clipped and after this and 
after receiving medicine to reduce acid in your stomach, the 
bleeding seems to have stopped.  
Please remain on the medication omeprazole 40 mg by mouth twice 
a day (this will health the ulcer) until you see the 
gastroenterologists.  Do NOT take any medicines such as 
ibuprofen and do NOT consume alcohol as this can delay ulcer 
healing.
You received several infusions of iron as you refused blood 
products.  Your blood count is very low and your fatigue will 
persist until your body uses the iron to gradually make more 
blood on it's own.  
You have a history of heart disease, so your rehab center will 
restart your aspirin in a couple of weeks if you have no further 
bleeding.  
 
Followup Instructions:
___